US08357688B2
Under cooling in an ice-acetone bath, to a mixed liquid of 10.0 g of methyl 2,3-dichloro-7-methylquinoxaline-6-carboxylate in methanol was added dropwise a mixed liquid of 8.54 g of a 28% sodium methoxide solution in methanol and 80.0 mL of methanol over 6 hours. After stirring at the same temperature for 1 hour, the mixture was warmed to room temperature, followed by stirring for 1 hour. To the reaction mixture were added chloroform and water, followed by extraction with chloroform, and the organic layer was washed with saturated brine and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to obtain 10.1 g of methyl 3-chloro-2-methoxy-7-methylquinoxaline-6-carboxylate as a pale yellow solid.

reactant | methyl 2,3-dichloro-7-methylquinoxaline-6-carboxylate | 10.0 g | ClC1=NC2=CC(=C(C=C2N=C1Cl)C(=O)OC)C | C11H8Cl2N2O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | water | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol | 80.0 mL | CO | CH4O
product | methyl 3-chloro-2-methoxy-7-methylquinoxaline-6-carboxylate | 10.1 g | ClC=1C(=NC2=CC(=C(C=C2N1)C(=O)OC)C)OC | C12H11ClN2O3
